* pipeline2.0 netlist
* circuit: a01

VVCC N001 0 DC 5
Rlamp13_1 N004 0 50
Dled12_1 N005 0 LED_RED
Rresistor22_1 N002 N004 1000
Rresistor22_2 N001 N005 220
* switch25.1 open: not emitted

.model LED_RED D

VSCENARIO_N002 N002 0 DC 5
.op
.end
